US07084170B2
4-Methoxythiophene-2-sulfonamide
To a solution of 5-trimethylsilyl-4-methoxythiophene-2-sulfonamide (770 mg, 2.90 mmol) in THF (10 mL) is added a solution of tetra-butylammonium fluoride (17.4 mL of 1 M in THF, 17.4 mmol). The reaction mixture is stirred at room temperature for 2 hr. The THF is removed under reduced pressure. The residue is dissolved in EtOAc (200 mL). The organic layer is washed with brine then dried (Na2SO4), filtered and concentrated in vacuo. The crude product is chromatographed on silica gel, eluting with Hex:EtOAc (3:1) to afford the title compound (480 mg, 86%).

reactant | 5-trimethylsilyl-4-methoxythiophene-2-sulfonamide | 2.90 mmol, 770 mg | C[Si](C1=C(C=C(S1)S(=O)(=O)N)OC)(C)C | C8H15NO3S2Si
reactant | tetra-butylammonium fluoride | 17.4 mmol, 1 M, 17.4 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Methoxythiophene-2-sulfonamide | 480 mg, 86% | COC=1C=C(SC1)S(=O)(=O)N | C5H7NO3S2
